* Canonical DUT generated from benchmark/analogcoder_pro/p18_opamp.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p18: A single-stage differential common-source opamp with dual resistive loads, tail current, and a single output
* Source: analogcoder\AnalogCoderPro-master\sample_design\p18\p18.py
* AnalogCoder-Pro type: Opamp
* Inputs: Vinp, Vinn
* Outputs: Vout
.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
Vdd Vdd 0 50
* original signal source: Vinp Vinp 0 DC 1.0 AC 1n
Vinp Vinp 0 0
* original signal source: Vinn Vinn 0 DC 1.0 AC 1n
Vinn Vinn 0 0
Vbias Vbias 0 1
M1 Vout Vinp SourceDiff SourceDiff nmos_model W=5e-05 L=1e-06
M2 Drain2 Vinn SourceDiff SourceDiff nmos_model W=5e-05 L=1e-06
Mtail SourceDiff Vbias 0 0 nmos_model W=2e-05 L=1e-06
R1 Vdd Vout 10k
R2 Vdd Drain2 10k
* original analysis: .OP
* original analysis: .AC DEC 100 1 1G
.END
